US07842945B2
4.90 g (16.95 mmol) of 2-bromo-9,10-anthraquinone was put into a 300 mL three-neck flask, and the atmosphere of the flask was substituted with nitrogen. Into the flask was added 100 mL of tetrahydrofuran (THF), and 17.76 mL (37.29 mmol) of a dibutyl ether-solution of phenyllithium was dropwised, which was followed by stirring for about 12 hours at room temperature. After the reaction, the solution was washed with water, and the aqueous layer was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and concentrated to give 2-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol as the target compound.

reactant | 2-bromo-9,10-anthraquinone | 16.95 mmol, 4.90 g | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7BrO2
reactant | dibutyl ether | 37.29 mmol, 17.76 mL | C(CCC)OCCCC | C8H18O
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C26H19BrO2
